US07687635B2
1.5 g (11.9 mmole) glycine methylester hydrochloride was added to 100 ml dry THF and subsequently, 3.61 g (35.8 mmole) triethylamine was added. After 15 minutes stirring at room temperature, 4.33 g (35.8 mmole) allyl bromide was added dropwise and the mixture was refluxed for 16 hours. 100 ml of 2N HCl was added and then extracted with 100 ml diethyl ether. The aqueous phase was alkalinised after, acid extraction, with K2CO3 and extracted with CH2Cl2 (100 ml three times). The organic layer was dried with MgSO4. The product was further purified, after filtration of MgSO4 and evaporation of the solvent, via column chromatography, providing with 100% selectivity 0.78 g (5.75 mmole, yield 49%) diallylglycine methyl ester. This product was further characterised by the following spectra:

reactant | glycine methylester hydrochloride | 11.9 mmole, 1.5 g | Cl.COC(CN)=O
reactant | triethylamine | 35.8 mmole, 3.61 g | C(C)N(CC)CC | C6H15N
reactant | allyl bromide | 35.8 mmole, 4.33 g | C(C=C)Br | C3H5Br
reactant | HCl | 2N, 100 ml | Cl | ClH
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | diallylglycine methyl ester | 5.75 mmole, 0.78 g, yield 49% | COC(CN(CC=C)CC=C)=O | C9H15NO2
